US04851419
(a) Phenylmethyl 2-[2-(2-pyridyl)-phenyl thio]benzimidazole-1-carboxylate
2-[2-(2-Pyridyl)-phenyl thio]-1H-benzimidazole (0.825 mmole) in anhydrous dimethylformamide (15 ml) was treated under nitrogen with sodium hydride (0.90 mmole). The mixture was stirred for 20 minutes at room temperature, cooled to 5° and benzyl chloroformate (0.90 mmole) was added. The mixture was allowed to attain room temperature, then stirred for 18 hours after which it was poured into ice/water and extracted with ethyl acetate (2×15 ml). The combined extracts were washed with water, dried (MgSO4), filtered and evaporated to an oil. The oil was flash chromatographed on silica gel using 10% ethyl acetate in dichloromethane as eluant to give the sub-title compound as a brown oil, MW 437 Base Peak 91.

reactant | 2-[2-(2-Pyridyl)-phenyl thio]-1H-benzimidazole | 0.825 mmole | N1=C(C=CC=C1)C1=C(C=CC=C1)SC1=NC2=C(N1)C=CC=C2 | C18H13N3S
reactant | sodium hydride | 0.90 mmole | [H-].[Na+]
reactant | benzyl chloroformate | 0.90 mmole | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | Phenylmethyl 2-[2-(2-pyridyl)-phenyl thio]benzimidazole-1-carboxylate | N1=C(C=CC=C1)C1=C(C=CC=C1)SC1=NC2=C(N1C(=O)OCC1=CC=CC=C1)C=CC=C2 | C26H19N3O2S
